### PR TITLE
[Merged by Bors] - feat: Fourier transform of iterated derivatives

### PR DESCRIPTION
**Pull request by sgouezel**
We show that the Fourier transform of an iterated derivative is the Fourier transform of the original function multiplied by a power function. We deduce bounds on `‖w‖ ^ n * ‖iteratedFDeriv ℝ k (𝓕 f) w‖` in terms of integrals of iterated derivatives of `f` (up to order `n`) multiplied by power functions (up to order `k`).

---

The PR is a little bit longish. If you think it's too long, please complain, I can try to split it (although there is no natural splitting point, I can do it a little bit arbitrarily).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 1]
```diff
@@ -236,6 +328,81 @@ lemma norm_fourierPowSMulRight_le (f : V → E) (v : V) (n : ℕ) :
...
+  · exact (smulRightL ℝ (fun (_ : Fin n) ↦ W) E).isBoundedBilinearMap.contDiff.comp₂ (A.of_le hk)
+      (hf.of_le hk)
+  simp only [norm_pow, norm_neg, norm_mul, RCLike.norm_ofNat, Complex.norm_eq_abs, abs_ofReal,
+    _root_.abs_of_nonneg pi_nonneg, abs_I, mul_one, mul_assoc]
+  gcongr
+  apply (ContinuousLinearMap.norm_iteratedFDeriv_le_of_bilinear_of_le_one _ A hf _
+    hk ContinuousMultilinearMap.norm_smulRightL_le).trans
+  calc
+  ∑ i in Finset.range (k + 1),
+    Nat.choose k i * ‖iteratedFDeriv ℝ i (fun (y : V) ↦ T (fun _ ↦ L y)) v‖ *
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:384]:
```suggestion
    k.choose i * ‖iteratedFDeriv ℝ i (fun (y : V) ↦ T (fun _ ↦ L y)) v‖ *
```
(saves a few bytes, but more importantly better matches usual informal notation) -- same in a few other places here.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 2]
```diff
@@ -279,13 +444,10 @@ lemma hasFTaylorSeriesUpTo_fourierIntegral {N : ℕ∞}
...
           gcongr; apply norm_fourierPowSMulRight_le
       _ = (2 * π * ‖L‖) ^ n * (‖v‖ ^ (n + 1) * ‖f v‖) := by rw [pow_succ]; ring
-    have I₃ : Integrable (fun v ↦ 𝐞 (-L.toLinearMap₂ v w)
-        • fourierPowSMulRight L f v (Nat.succ n)) μ := by
-      simpa only [ContinuousLinearMap.toLinearMap₂_apply, fourierIntegral_convergent_iff'] using
-        integrable_fourierPowSMulRight L (hf (n + 1) (ENat.add_one_le_of_lt hn)) h'f
-    have I₄ : Integrable (fun v ↦ 𝐞 (-L.toLinearMap₂ v w)
-        • fourierSMulRight L (fun v ↦ fourierPowSMulRight L f v n) v) μ := by
-      simp only [ContinuousLinearMap.toLinearMap₂_apply, fourierIntegral_convergent_iff']
+    have I₃ : Integrable (fun v ↦ fourierPowSMulRight L f v (Nat.succ n)) μ :=
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:447]: I think
```suggestion
    have I₃ : Integrable (fun v ↦ fourierPowSMulRight L f v (n + 1)) μ :=
```
is preferred style (& same again a few lines down)

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 3]
```diff
@@ -294,15 +456,13 @@ lemma hasFTaylorSeriesUpTo_fourierIntegral {N : ℕ∞}
...
-        neg_apply]
+      rw [curryLeft_apply, fourierIntegral_continuousMultilinearMap_apply' I₃,
+        fourierIntegral_continuousLinearMap_apply' I₄,
+        fourierIntegral_continuousMultilinearMap_apply' (I₄.apply_continuousLinearMap _)]
+      congr with v
+      simp only [fourierPowSMulRight_apply, mul_comm, pow_succ, neg_mul, Fin.prod_univ_succ,
+        Fin.cons_zero, Fin.cons_succ, neg_smul, fourierSMulRight_apply, neg_apply, smul_apply,
+        smul_comm (M := ℝ) (N := ℂ) (α := E), smul_smul]
     rw [E]
     exact hasFDerivAt_fourierIntegral L I₁ I₂ w
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:467]:
```suggestion
    exact E ▸ hasFDerivAt_fourierIntegral L I₁ I₂ w
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 4]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    simp only [iteratedFDeriv_zero_apply, Nat.zero_eq, fourierPowSMulRight_apply, pow_zero,
+      Finset.univ_eq_empty, ContinuousLinearMap.neg_apply, ContinuousLinearMap.flip_apply,
+      Finset.prod_empty, one_smul, fourierIntegral_continuousMultilinearMap_apply' ((h'f 0 bot_le))]
+  | succ n ih =>
+    ext w m
+    -- instance on next line should not be necessary, but proof breaks down without it.
+    let NS : NormedSpace ℝ (V [×n]→L[ℝ] E) := by infer_instance
+    have J : Integrable (fderiv ℝ (iteratedFDeriv ℝ n f)) μ := by
+      specialize h'f (n + 1) hn
+      simp_rw [iteratedFDeriv_succ_eq_comp_left] at h'f
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:512]:
```suggestion
      rw [iteratedFDeriv_succ_eq_comp_left] at h'f
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 5]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    suffices H : (fourierIntegral 𝐞 μ L.toLinearMap₂ (fderiv ℝ (iteratedFDeriv ℝ n f)) w)
+          (m 0) (Fin.tail m) =
+        (-(2 * π * I)) ^ (n + 1) • (∏ x : Fin (n + 1), -L (m x) w) • ∫ v, 𝐞 (-L v w) • f v ∂μ by
+      rw [fourierIntegral_continuousMultilinearMap_apply' (h'f _ hn)]
+      simp only [iteratedFDeriv_succ_apply_left, fourierPowSMulRight_apply,
+        ContinuousLinearMap.neg_apply, ContinuousLinearMap.flip_apply]
+      rw [← fourierIntegral_continuousMultilinearMap_apply' ((J.apply_continuousLinearMap _)),
+          ← fourierIntegral_continuousLinearMap_apply' J]
+      exact H
+    have h'n : n < N := lt_of_lt_of_le (by simp [-Nat.cast_add]) hn
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:523]:
```suggestion
    have h'n : n < N := (Nat.cast_lt.mpr n.lt_succ_self).trans_le hn
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 6]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    rw [fourierIntegral_fderiv]
+    · have A : ∀ (x : ℝ) (v : E), x • v = (x : ℂ) • v := fun x v ↦ rfl
+      simp only [ih h'n.le, fourierSMulRight_apply, ContinuousLinearMap.neg_apply,
+        ContinuousLinearMap.flip_apply, neg_smul, smul_neg, neg_neg, smul_apply,
+        fourierPowSMulRight_apply, A, smul_smul]
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:528]: there's already a lemma for `A`, although it needs a tiny bit of help to get the types right:
```suggestion
    · simp only [ih h'n.le, fourierSMulRight_apply, ContinuousLinearMap.neg_apply,
        ContinuousLinearMap.flip_apply, neg_smul, smul_neg, neg_neg, smul_apply,
        fourierPowSMulRight_apply, ← coe_smul (E := E), smul_smul]
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 7]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+      congr 1
+      have B : ∀ (i : Fin n), Fin.tail m i = m (Fin.succ i) := fun i ↦ rfl
+      simp only [ofReal_prod, ofReal_neg, pow_succ, mul_neg, Fin.prod_univ_succ, neg_mul,
+        ofReal_mul, neg_neg, B]
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:532]: and here:
```suggestion
      simp only [ofReal_prod, ofReal_neg, pow_succ, mul_neg, Fin.prod_univ_succ, neg_mul,
        ofReal_mul, neg_neg, Fin.tail_def]
```
(I found both of these using `rw?`)

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 8]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+          (m 0) (Fin.tail m) =
+        (-(2 * π * I)) ^ (n + 1) • (∏ x : Fin (n + 1), -L (m x) w) • ∫ v, 𝐞 (-L v w) • f v ∂μ by
+      rw [fourierIntegral_continuousMultilinearMap_apply' (h'f _ hn)]
+      simp only [iteratedFDeriv_succ_apply_left, fourierPowSMulRight_apply,
+        ContinuousLinearMap.neg_apply, ContinuousLinearMap.flip_apply]
+      rw [← fourierIntegral_continuousMultilinearMap_apply' ((J.apply_continuousLinearMap _)),
+          ← fourierIntegral_continuousLinearMap_apply' J]
+      exact H
+    have h'n : n < N := lt_of_lt_of_le (by simp [-Nat.cast_add]) hn
+    rw [fourierIntegral_fderiv]
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:524]:
```suggestion
    rw [fourierIntegral_fderiv _ (h'f n h'n.le) (hf.differentiable_iteratedFDeriv h'n) J]
```
+ then there's only one goal afterwards.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 9]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    apply (I.const_mul ((2 * π) ^ k * (2 * k + 2) ^ m * ‖L‖ ^ k)).mono'
+      ((hf.fourierPowSMulRight L k).continuous_iteratedFDeriv hm).aestronglyMeasurable
+    filter_upwards with v
+    apply norm_iteratedFDeriv_fourierPowSMulRight _ hf hm _
+    intro i hi j hj
+    apply Finset.single_le_sum (f := fun p ↦ ‖v‖ ^ p.1 * ‖iteratedFDeriv ℝ p.2 f v‖) (a := (j, i))
+    · intro i _hi
+      positivity
+    · simp only [Finset.mem_product, Finset.mem_range_succ_iff]
+      exact ⟨hj, hi⟩
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:568]:
```suggestion
    · simpa only [Finset.mem_product, Finset.mem_range_succ_iff] using ⟨hj, hi⟩
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 10]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    have I : Integrable (fun v ↦ ∑ p in Finset.range (k + 1) ×ˢ Finset.range (m + 1),
+        ‖v‖ ^ p.1 * ‖iteratedFDeriv ℝ p.2 f v‖) μ := by
+      apply integrable_finset_sum _ (fun p hp ↦ ?_)
+      simp only [Finset.mem_product, Finset.mem_range_succ_iff] at hp
+      apply h'f _ _ ((Nat.cast_le.2 hp.1).trans hk) ((Nat.cast_le.2 hp.2).trans hm)
+    apply (I.const_mul ((2 * π) ^ k * (2 * k + 2) ^ m * ‖L‖ ^ k)).mono'
+      ((hf.fourierPowSMulRight L k).continuous_iteratedFDeriv hm).aestronglyMeasurable
+    filter_upwards with v
+    apply norm_iteratedFDeriv_fourierPowSMulRight _ hf hm _
+    intro i hi j hj
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:563]:
```suggestion
    refine norm_iteratedFDeriv_fourierPowSMulRight _ hf hm (fun i hi j hj ↦ ?_)
```
(I'm not so fond of `apply` with multiple `_`'s, for the same reason as lean3 `refine` -- it's not obvious which blanks are to be synthesized and which to be left as new goals)

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 11]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+  · intro p hp
+    simp only [Finset.mem_product, Finset.mem_range_succ_iff] at hp
+    exact h'f _ _ (le_trans (by simpa using hp.1) hk) (le_trans (by simpa using hp.2) hn)
+  apply integral_mono_of_nonneg
+  · filter_upwards with v using norm_nonneg _
+  · apply Integrable.const_mul
+    apply integrable_finset_sum _ (fun p hp ↦ ?_)
+    simp only [Finset.mem_product, Finset.mem_range_succ_iff] at hp
+    apply h'f _ _ ((Nat.cast_le.2 hp.1).trans hk) ((Nat.cast_le.2 hp.2).trans hn)
+  · filter_upwards with v
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:593]: this is identical to the end of the last proof, can the common lines be factored out as a separate lemma and reused?

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 12]
```diff
@@ -330,6 +490,150 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    intro i hi j hj
+    apply Finset.single_le_sum (f := fun p ↦ ‖v‖ ^ p.1 * ‖iteratedFDeriv ℝ p.2 f v‖) (a := (j, i))
+    · intro i _hi
+      positivity
+    · simp only [Finset.mem_product, Finset.mem_range_succ_iff]
+      exact ⟨hj, hi⟩
+
+/-- One can bound the `k`-th derivative of the Fourier integral of `f`, multiplied by `(L v w) ^ n`,
+in terms of integrals of iterated derivatives of `f` (of order up to `n`) multiplied by `‖v‖ ^ i`
+(for `i ≤ k`). -/
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:604]: This docstring is identical to that of the previous lemma (but the proof is quite lengthy, so it's obviously not just a trivial variant). Can you add a few words of explanation about how the two lemmas differ?

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 13]
```diff
@@ -371,6 +683,48 @@ theorem iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    (h'f : ∀ (k n : ℕ), k ≤ K → n ≤ N → Integrable (fun v ↦ ‖v‖^k * ‖iteratedFDeriv ℝ n f v‖))
+    {k n : ℕ} (hk : k ≤ K) (hn : n ≤ N) (w : V) :
+    ‖w‖ ^ n * ‖iteratedFDeriv ℝ k (𝓕 f) w‖ ≤ (2 * π) ^ k * (2 * k + 2) ^ n *
+      ∑ p in Finset.range (k + 1) ×ˢ Finset.range (n + 1),
+        ∫ v, ‖v‖ ^ p.1 * ‖iteratedFDeriv ℝ p.2 f v‖ := by
+  have Z := VectorFourier.pow_mul_norm_iteratedFDeriv_fourierIntegral_le (innerSL ℝ) hf h'f hk hn
+    w w
+  simp only [innerSL_apply _ w w, real_inner_self_eq_norm_sq w, _root_.abs_pow, abs_norm,
+    mul_assoc] at Z
+  rw [pow_two, mul_pow, mul_assoc] at Z
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:708]: This proof comes across as slightly mysterious because the type of `Z` is never stated explicitly (but the type is very long to write down so it's maybe inevitable).

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 14]
```diff
@@ -397,9 +751,27 @@ lemma hasDerivAt_fourierIntegral
...
+/-- The Fourier integral of the Fréchet derivative of a function is obtained by multiplying the
+Fourier integral of the original function by `2πI x`. -/
+theorem fourierIntegral_deriv
+    {f : ℝ → E} (hf : Integrable f) (h'f : Differentiable ℝ f) (hf' : Integrable (deriv f)) :
+    𝓕 (deriv f) = fun (x : ℝ) ↦ (2 * π * I * x) • (𝓕 f x) := by
+  ext x
+  have I : Integrable (fun x ↦ fderiv ℝ f x) := by
+    simp_rw [← deriv_fderiv]
+    change Integrable (fun x ↦ ContinuousLinearMap.smulRightL _ _ _ 1 (deriv f x)) volume
+    apply ContinuousLinearMap.integrable_comp _ hf'
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:766]:
```suggestion
    simpa only [← deriv_fderiv] using (ContinuousLinearMap.smulRightL ℝ ℝ E 1).integrable_comp hf'
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 15]
```diff
@@ -397,9 +751,27 @@ lemma hasDerivAt_fourierIntegral
...
+  have : 𝓕 (deriv f) x = 𝓕 (fderiv ℝ f) x 1 := by
+    rw [fourierIntegral_continuousLinearMap_apply I]
+    rfl
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:769]:
```suggestion
    simp only [fourierIntegral_continuousLinearMap_apply I, fderiv_deriv]
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 16]
```diff
@@ -397,9 +751,27 @@ lemma hasDerivAt_fourierIntegral
...
+  rw [this, fourierIntegral_fderiv hf h'f I]
+  have : x • 𝓕 f x = (x : ℂ) • 𝓕 f x := rfl
+  simp only [fourierSMulRight_apply, ContinuousLinearMap.neg_apply, innerSL_apply, smul_smul,
+    RCLike.inner_apply, conj_trivial, mul_one, neg_smul, smul_neg, neg_neg, neg_mul, this]
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:773]:
```suggestion
  simp only [fourierSMulRight_apply, ContinuousLinearMap.neg_apply, innerSL_apply, smul_smul,
    RCLike.inner_apply, conj_trivial, mul_one, neg_smul, smul_neg, neg_neg, neg_mul, ← coe_smul]
```

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 17]
```diff
@@ -410,13 +782,26 @@ theorem iteratedDeriv_fourierIntegral {f : ℝ → E} {N : ℕ∞} {n : ℕ}
...
+  ext x : 1
+  have A : ∀ (n : ℕ), n ≤ N → Integrable (iteratedFDeriv ℝ n f) := by
+    intro n hn
+    rw [iteratedFDeriv_eq_equiv_comp]
+    exact (LinearIsometryEquiv.integrable_comp_iff _).2 (h'f n hn)
+  have B : ∀ (c : ℝ) (v : E), c • v = (c : ℂ) • v := fun c v ↦ rfl
+  change 𝓕 (fun x ↦ iteratedDeriv n f x) x = _
+  simp_rw [iteratedDeriv, ← fourierIntegral_continuousMultilinearMap_apply (A n hn),
+    fourierIntegral_iteratedFDeriv hf A hn]
+  simp [B, smul_smul, ← mul_pow]
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:805]:
```suggestion
  simp [← coe_smul, smul_smul, ← mul_pow]
```
(and get rid of `B`)

**Review by loefflerd — COMMENTED** [review]
Hi Sebastien,

This is really great code, and it looks like almost all the pieces are now in place for the Fourier transform on the Schwartz class, which will be a fantastic thing to have. I've suggested a whole load of very minor small-scale golfs, nothing of any major importance.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 18]
```diff
@@ -101,7 +163,7 @@ lemma hasFDerivAt_fourierChar_smul (v : V) (w : W) :
     HasFDerivAt (fun w' ↦ 𝐞 (-L v w') • f v) (𝐞 (-L v w) • fourierSMulRight L f v) w := by
   have ha : HasFDerivAt (fun w' : W ↦ L v w') (L v) w := ContinuousLinearMap.hasFDerivAt (L v)
   convert ((hasDerivAt_fourierChar (-L v w)).hasFDerivAt.comp w ha.neg).smul_const (f v)
-  ext1 w'
+  ext w' : 1
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:166]: I was explained in another PR that it's better style, `ext1` shouldn't really exist and might be removed some day.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean (hunk 11 above)
Comment (sgouezel) [reply Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:586]: It's so specific that I don't think I can extract anything interesting out. But I have refactored a little bit the second proof to avoid a repetition.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 19]
```diff
@@ -236,6 +328,81 @@ lemma norm_fourierPowSMulRight_le (f : V → E) (v : V) (n : ℕ) :
   _ = (2 * π * ‖L‖) ^ n * ‖v‖ ^ n * ‖f v‖ * ∏ i : Fin n, ‖m i‖ := by
       simp [Finset.prod_mul_distrib, mul_pow]; ring
 
+/-- The iterated derivative of a function multiplied by `(L v ⬝) ^ n` can be controlled in terms
+of the iterated derivatives of the initial function. -/
+lemma norm_iteratedFDeriv_fourierPowSMulRight
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:337]: I haven't found anything reasonable to factor out. I have added comments to explain the various steps of the proof, so hopefully it should be better now. Also, I have merged master and I have the impression that there is a nice performance improvement here, making the file less painful to work on!

**Comment by sgouezel** [comment]
Thanks a lot for the great review! I have taken care of everything.

File: Mathlib/Analysis/Fourier/FourierTransformDeriv.lean [hunk 20]
```diff
@@ -330,6 +505,142 @@ lemma iteratedFDeriv_fourierIntegral {N : ℕ∞}
...
+    refine norm_iteratedFDeriv_fourierPowSMulRight _ hf hm (fun i hi j hj ↦ ?_)
+    apply Finset.single_le_sum (f := fun p ↦ ‖v‖ ^ p.1 * ‖iteratedFDeriv ℝ p.2 f v‖) (a := (j, i))
+    · intro i _hi
+      positivity
+    · simpa only [Finset.mem_product, Finset.mem_range_succ_iff] using ⟨hj, hi⟩
+
+/-- One can bound the `k`-th derivative of the Fourier integral of `f`, multiplied by `(L v w) ^ n`,
+in terms of integrals of iterated derivatives of `f` (of order up to `n`) multiplied by `‖v‖ ^ i`
+(for `i ≤ k`).
+Auxiliary bersion in terms of the operator norm of `fourierPowSMulRight (-L.flip) ⬝`. For a version
```
Comment (loefflerd) [inline Mathlib/Analysis/Fourier/FourierTransformDeriv.lean:579]:
```suggestion
Auxiliary version in terms of the operator norm of `fourierPowSMulRight (-L.flip) ⬝`. For a version
```

**Review by loefflerd — COMMENTED** [review]
Looks great now! I just found one trivial typo.

**Comment by loefflerd** [comment]
maintainer merge
